US04594197
To a solution of 2.87 g of 2-acetylthio-3-(4-chlorobenzoyl)propionic acid in 50 ml of diethyl ether was added dropwise a solution of 0.95 g of 80% hydrazine hydrate in 5 ml of ethanol under ice-cooling with stirring over a period of 30 minutes. The mixture was stirred for a further 30 minutes. The reaction solution was washed with water and dried over magnesium sulfate. The diethyl ether was removed from the solution by evaporation, and the residue was purified by silica gel column chromatography using a mixture of hexane and diethyl ether as an eluent and recrystallized from the same mixture to give 1.01 g of 3-(4-chlorobenzoyl)-2-mercaptopropionic acid.

reactant | 2-acetylthio-3-(4-chlorobenzoyl)propionic acid | 2.87 g | C(C)(=O)SC(C(=O)O)CC(C1=CC=C(C=C1)Cl)=O | C12H11ClO4S
reactant | hydrazine hydrate | 0.95 g | O.NN
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(4-chlorobenzoyl)-2-mercaptopropionic acid | 1.01 g | ClC1=CC=C(C(=O)CC(C(=O)O)S)C=C1 | C10H9ClO3S
